US07176320B2
829 mg (6 mmol) of 2-nitroaniline and 1242 mg (7.8 mmol) of 1-methylindole carboxyaldehyde were dissolved in 20 ml of tetrahydrofuran followed by the sequential addition of 200 μl of acetic acid and 5087 mg (24 mmol) of NaBH(OAc)3 and stirring overnight at room temperature. After adding saturated aqueous sodium bicarbonate solution, extracting with ethyl acetate and drying with anhydrous magnesium sulfate, the solvent was distilled off and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=95:5) to obtain 264 mg of ((1-methylindole-3-yl)methyl)(2-nitrophenyl)amine (yield: 18%). 264 mg (0.939 mmol) of ((1-methylindole-3-yl)methyl)(2-nitrophenyl)amine were then dissolved in 10 ml of ethanol followed by the addition of 50 mg (0.047 mmol) of 10% Pd—C and stirring for 6 hours at room temperature in a hydrogen atmosphere. After completion of the reaction, the Pd—C was filtered out and the solvent was distilled off under reduced pressure to obtain 212 mg of ((1-methylindole-3-yl)methyl)(2-aminophenyl)amine (yield: 90%).

reactant | ((1-methylindole-3-yl)methyl)(2-nitrophenyl)amine | 0.939 mmol, 264 mg | CN1C=C(C2=CC=CC=C12)CNC1=C(C=CC=C1)[N+](=O)[O-] | C16H15N3O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | Pd—C | 0.047 mmol, 50 mg | [Pd] | Pd
product | ((1-methylindole-3-yl)methyl)(2-aminophenyl)amine | 212 mg, yield: 90% | CN1C=C(C2=CC=CC=C12)CNC1=C(C=CC=C1)N | C16H17N3
